US06716843B2
(S)-1-[N5-{(Imino)-(ethylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, ethanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | ethanesulphonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)-(ethylsulphonylamino)-methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)CC | InChI=1S/C12H25N5O3S.ClH/c1-2-21(19,20)16-12(14)15-7-5-6-10(13)11(18)17-8-3-4-9-17;/h10H,2-9,13H2,1H3,(H3,14,15,16);1H/t10-;/m0./s1
